US07411071B2
N-(4-(chloromethyl)thiazol-2-yl)acetamide was prepared following a literature procedure (Silberg, A.; Frenkel, Z.; Bull. Soc. Chim. Fr.; 1967; 2235-2238). A suspension of 1-acetylisothiourea (3.55 g, 0.03 mol), 1,3-dichloropropan-2-one (3.8 g, 0.03 mol) and pyridine (1.96 g, 2 ml, 0.025 mol) in acetone (10 ml) was heated at 100 C in an oil bath for 20 minutes. A flocculent white solid formed. After cooling to room temperature, the reaction mixture was filtered to collect the white solid. The filtrate was evaporated, and the resulting residue was taken into water resulted in a white suspension which was stirred for a couple of minutes. The suspension was filtered. The collected solid was washed with water, dried under vacuum and combined with the above-mentioned white solid to give 2.89 g (51% yield) of N-(4-(chloromethyl)thiazol-2-yl)acetamide. LC/MS m/z 191.05, 193.05 (M+H)+); HPLC Rt: 1.71 min.

reactant | 1-acetylisothiourea | 0.03 mol, 3.55 g | C(C)(=O)NC(S)=N | C3H6N2OS
reactant | 1,3-dichloropropan-2-one | 0.03 mol, 3.8 g | ClCC(CCl)=O | C3H4Cl2O
reactant | pyridine | 0.025 mol, 2 ml, 1.96 g | N1=CC=CC=C1 | C5H5N
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | N-(4-(chloromethyl)thiazol-2-yl)acetamide | 2.89 g, 51% yield | ClCC=1N=C(SC1)NC(C)=O | C6H7ClN2OS
